US06376515B2
Preparation of methyl 3-[(4-cyanophenyl)carbonylamino]thiophene-2-carboxylate
A mixture of 4-cyanobenzoyl chloride (1.0500 g, 6.4 mmol), methyl 3-aminothiophenecarboxylate (1.0000 g, 6.4 mmol), and triethylamine (1mL, 7.0 mmol) in dichloromethane was stirred at room temperature for 18 hours. The mixture was poured into a separatory funnel and washed by 1 N HCl. The organic layers were combined. dried over MgSO4, concentrated in vacuo, and chromatographed through a silica gel column to give the title compound 1.6588 g (91%). ES-MS 287 (M+1).

reactant | 4-cyanobenzoyl chloride | 6.4 mmol, 1.0500 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | methyl 3-aminothiophenecarboxylate | 6.4 mmol, 1.0000 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | triethylamine | 7.0 mmol, 1mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 3-[(4-cyanophenyl)carbonylamino]thiophene-2-carboxylate | 1.6588 g, 91% | C(#N)C1=CC=C(C=C1)C(=O)NC1=C(SC=C1)C(=O)OC | C14H10N2O3S
